US05244910
Alternative Preparation of (S)-1-(2-Furyl)-1-pentanol
To a solution of optically active (-) 3-exo(dimethylamino) isoborneol (DAIB, see Noyori et al. J. Am. Chem. Soc. 1986, 108, 6071-2 and Noyori et al. J. Organomet. Chem. 1990, 382, 19-37, 371 mg, 1.88 mmol) in 200 mL of dry toluene under an argon atmosphere is added a 4.2 M solution of di-butylzinc (25 mL, 105 mmol) at room temperature. The reaction mixture is stirred for 15 m and then cooled to -78° C. To the cooled solution is added freshly distilled furfural (9.0 g, 94 mmol) in one portion. The reaction mixture is stirred at 0° C. for 6 h. Saturated ammonium chloride solution (100 mL) is added. The mixture is extracted three times with diethyl ether.

reactant | di-butylzinc | 105 mmol, 25 mL | C(CCC)[Zn]CCCC
reactant | furfural | 94 mmol, 9.0 g | C(C1=CC=CO1)=O | C5H4O2
reactant | ammonium chloride | 100 mL | [Cl-].[NH4+]
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-1-(2-Furyl)-1-pentanol | O1C(=CC=C1)[C@H](CCCC)O | C9H14O2
